US08207164B2
a) 2-Chloro-3-fluoro-5-(2-methoxy-ethoxy)-pyridine
To a solution of 6-chloro-5-fluoro-pyridin-3-ol (CAS registry 870062-76-3) (800 mg, 5.42 mmol), 2-methoxy-ethanol (454 mg, 0.471 ml, 5.96 mmol) and triphenylphosphine (2.199 g, 8.13 mmol) in THF (40 ml) was added dropwise a solution of DIAD (1.731 g, 8.13 mmol) in THF (20 ml) while keeping the temperature at 0-5° C. The reaction mixture was stirred for 20 h at room temperature, water and brine were added and the mixture was diluted with EtOAc. The aqueous layer was twice extracted with EtOAc, the combined organic layers were dried over Na2SO4, filtered, the filtrate was concentrated and yielded after trituration with Et2O and filtration, the title compound as a white solid. The filtrate yielded another batch of the product after purification by prep. NP HPLC using an Alltech Grom Saphir 65 Si 10 μM 250×50 mm column (heptane/EtOAc, gradient 0-1.7 min 15% EtOAc, 1.7-17 min 15-100% EtOAc, 17-24.3 min 100% EtOAc, 24.3-27.8 min 0% EtOAc).

reactant | 6-chloro-5-fluoro-pyridin-3-ol | 5.42 mmol, 800 mg | ClC1=C(C=C(C=N1)O)F | C5H3ClFNO
reactant | 2-methoxy-ethanol | 5.96 mmol, 0.471 ml, 454 mg | COCCO | C3H8O2
reactant | triphenylphosphine | 8.13 mmol, 2.199 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | DIAD | 8.13 mmol, 1.731 g | CC(C)OC(=O)/N=N/C(=O)OC(C)C | C8H14N2O4
solvent | THF | 40 ml | C1CCOC1 | C4H8O
solvent | THF | 20 ml | C1CCOC1 | C4H8O
solvent | brine | [Cl-].[Na+].O
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | water | O | H2O
product | 2-Chloro-3-fluoro-5-(2-methoxy-ethoxy)-pyridine | ClC1=NC=C(C=C1F)OCCOC | C8H9ClFNO2
